US04482552
α-[1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]-2-pyridinemethanol
n-Butyllithium (1.6M in n-hexane, 8.12 ml) was added dropwise during 15 min to a stirred solution of 2-bromopyridine (1.86 g, 1.12 ml) in anhydrous ether (10 ml) at -70°, under nitrogen. The brown solution was stirred at -70° for 0.5 h before a solution of 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-carboxaldehyde (2.0 g) in anhydrous tetrahydrofuran (20 ml) was added dropwise at -70° and the solution was stirred at -40° for 2 h before water (20 ml) was added and the mixture was allowed to stand overnight at 20°. The mixture was concentrated extracted with ethyl acetate and the extract was dried and evaporated to give an oil (2.5 g) which was chromatographed using System C as eluent to give a solid (0.48 g). This was crystallised from ethyl acetate to give the title compound (0.25 g) as a white powder m.p. 152°-154° (d).

reactant | n-Butyllithium | 1.6M, 8.12 ml | C(CCC)[Li]
reactant | 2-bromopyridine | 1.12 ml, 1.86 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-carboxaldehyde | 2.0 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)C=O | C19H27N5O2
reactant | water | 20 ml | O | H2O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | α-[1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]-2-pyridinemethanol | 2.5 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)C(O)C1=NC=CC=C1 | C24H32N6O2
